US08729102B2
C) 5-(cyclopropylmethoxy)-2-ethynylpyridine
To a solution of 5-(cyclopropylmethoxy)-2-[(trimethylsilyl)ethynyl]pyridine (773 mg) in THF (15 mL) was added a THF solution (1.0 M, 4.1 mL) of tetrabutylammonium fluoride at room temperature, and the reaction mixture was concentrated under reduced pressure. The residue was diluted with ethyl acetate and water, and the aqueous layer was separated from the organic layer. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a colorless oil (591 mg).

reactant | 5-(cyclopropylmethoxy)-2-[(trimethylsilyl)ethynyl]pyridine | 773 mg | C1(CC1)COC=1C=CC(=NC1)C#C[Si](C)(C)C | C14H19NOSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 4.1 mL | C1CCOC1 | C4H8O
product | 5-(cyclopropylmethoxy)-2-ethynylpyridine | 591 mg | C1(CC1)COC=1C=CC(=NC1)C#C | C11H11NO
